US09334278B2
To a solution of N-tert-butyl-2-(3-(methylsulfonyl)phenylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (61 mg, 118 mol) in dichloromethane (1.8 mL) was added trifluoroacetic acid (269 mg, 182 μL, 2.36 mmol) and the mixture stirred at room temperature for 16 h. The reaction mixture was concentrated in vacuo and the residue obtained diluted with dichloromethane (1.8 mL), methanol (0.9 mL) and ammonium hydroxide (0.25 mL) and stirred at room temperature for 1 h. The mixture was concentrated and triturated with water. The solid was collected by filtration and washed with water and ether. Purification by chromatography (silica, GRADIENT UNKNOWN dichloromethane/methanol/0.5% ammonium hydroxide) gave N-tert-butyl-2-(3-(methylsulfonyl)phenylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide (26 mg, 67.1 mol, 57%) as a yellow solid. 1H NMR (400 MHz, DMSO-d) δ ppm: 12.42 (s, 1H), 9.87 (s, 1H), 8.33 (d, J=8.2, 1 H), 8.05 (d, J=3.4, 1 H), 8.03 (s, 1H), 7.79 (t, J=2.0, 1 H), 7.68 (s, 1H), 7.54 (t, J=8.0, 1 H), 7.47 (d, J=7.7, 1 H), 3.21 (s, 3H), 1.42 (s, 9H); MS (EI/CI) m/z: 388.2 [M+H].

reactant | N-tert-butyl-2-(3-(methylsulfonyl)phenylamino)-5-((2-(trimethylsilyl)ethoxy)methyl)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 118 mol, 61 mg | C(C)(C)(C)NC(=O)C1=CN(C2=NC=C(N=C21)NC2=CC(=CC=C2)S(=O)(=O)C)COCC[Si](C)(C)C | C24H35N5O4SSi
reactant | trifluoroacetic acid | 2.36 mmol, 182 μL, 269 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.8 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1.8 mL | ClCCl | CH2Cl2
solvent | methanol | 0.9 mL | CO | CH4O
solvent | ammonium hydroxide | 0.25 mL | [OH-].[NH4+]
product | N-tert-butyl-2-(3-(methylsulfonyl)phenylamino)-5H-pyrrolo[2,3-b]pyrazine-7-carboxamide | 67.1 mol, 26 mg, 57% | C(C)(C)(C)NC(=O)C1=CNC2=NC=C(N=C21)NC2=CC(=CC=C2)S(=O)(=O)C | C18H21N5O3S
